US06506901B2
Step D: (2R)-2-{[4-(4-{[((2R)-2-Hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)-amino]phenyl}ethyl)amino]methyl}piperidin-1-yl)benzoyl]amino}butanedioic Acid
A mixture of (2R)-2-{[4-(4-({[(2R)-2-hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)-amino]-phenyl}ethyl)amino]methyl}piperidin-1-yl)benzoyl]-amino}butanedioic acid dibenzyl ester (0.110 g, 0.14 mmol) and 0.11 g of 10% palladium on carbon in ethanol (3 mL) and cyclohexene (1 mL) was heated at reflux for 3 hours. When complete, the catalyst was filtered (Celite) and the cake was washed with hot methanol. The solvent was removed under reduced pressure, to give the title compound (0.010 g).

reactant | (2R)-2-{[4-(4-({[(2R)-2-hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)-amino]-phenyl}ethyl)amino]methyl}piperidin-1-yl)benzoyl]-amino}butanedioic acid dibenzyl ester | 0.14 mmol, 0.110 g | C(C1=CC=CC=C1)OC([C@@H](CC(=O)OCC1=CC=CC=C1)NC(C1=CC=C(C=C1)N1CCC(CC1)CNC[C@@H](C1=CC(=C(C=C1)O)NS(=O)(=O)C)O)=O)=O | C40H46N4O9S
catalyst | palladium on carbon | 0.11 g | [Pd] | Pd
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | cyclohexene | 1 mL | C1=CCCCC1 | C6H10
product | (2R)-2-{[4-(4-{[((2R)-2-Hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)-amino]phenyl}ethyl)amino]methyl}piperidin-1-yl)benzoyl]amino}butanedioic Acid | 0.010 g | O[C@@H](CNCC1CCN(CC1)C1=CC=C(C(=O)N[C@@H](C(=O)O)CC(=O)O)C=C1)C1=CC(=C(C=C1)O)NS(=O)(=O)C | C26H34N4O9S
